US07572915B2
3-Methyl-4-nitrophenyl phenyl sulphone
4-Fluoro-2-methyl-1-nitrobenzene (2.6 g) (available from Aldrich) and sodium benzenesulfinate (3.0 g) (available from Aldrich) were heated in N,N-dimethylacetamide (40 ml) at 50° C. for 16 h. After cooling the mixture was filtered, the filtrate collected and the solvent removed in vacuo. The residue was triturated with cyclohexane and the resultant precipitate collected by filtration to give the title compound as a white solid (3.5 g).

reactant | 4-Fluoro-2-methyl-1-nitrobenzene | 2.6 g | FC1=CC(=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | sodium benzenesulfinate | 3.0 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | N,N-dimethylacetamide | 40 ml | CN(C(C)=O)C | C4H9NO
product | 3-Methyl-4-nitrophenyl phenyl sulphone | 3.5 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)[N+](=O)[O-])C | C13H11NO4S
